US06180568B2
There was refluxed with heating a mixture of 0.50 g (2.0 mmols) of 1,2-dimethyl-4-(2,4,6-trimethylphenyl)pyrazolidine-3, 5-dione, 0.32 g (2.4 mmols) of N-chlorosuccinic acid imide, 19 mg (0.08 mmol) of benzoyl peroxide and 20 ml of carbon tetrachloride for 30 minutes. Water was added to the reaction mixture, followed by extraction with chloroform. The extract was washed with an aqueous solution of saturated sodium hydrogencarbonate and a saturated solution of sodium chloride and was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then the residue was washed with hexane, thereby obtaining 0.44 g (yield 78%) of 4-chloro-1,2-dimethyl-4-(2,4,6-trimethylphenyl)pyrazolidine-3,5-dione in the form of yellowish white crystals.

reactant | 1,2-dimethyl-4-(2,4,6-trimethylphenyl)pyrazolidine-3, 5-dione | 2.0 mmols, 0.50 g | CN1N(C(C(C1=O)C1=C(C=C(C=C1C)C)C)=O)C | C14H18N2O2
reactant | N-chlorosuccinic acid imide | 2.4 mmols, 0.32 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.08 mmol, 19 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | Water | O | H2O
product | 4-chloro-1,2-dimethyl-4-(2,4,6-trimethylphenyl)pyrazolidine-3,5-dione | 0.44 g, yield 78% | ClC1(C(N(N(C1=O)C)C)=O)C1=C(C=C(C=C1C)C)C | C14H17ClN2O2
